US07691843B2
Preparation of 1-(3-trifluoromethoxy-4-vinylbenzoyl)azetidine-2R-carboxylic acid hydroxyamide
4-Benzyloxy-3-trifluoromethoxybenzoic acid was prepared from 4-benzyloxy-1-bromo-3-trifluoromethoxybenzene by following Method M. The crude product was purified by crystallization using a mixture of EtOAc and hexanes as a solvent (19% yield of desired product from the first crop).

reactant | 4-benzyloxy-1-bromo-3-trifluoromethoxybenzene | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)OC(F)(F)F | C14H10BrF3O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Benzyloxy-3-trifluoromethoxybenzoic acid | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)O)C=C1)OC(F)(F)F | C15H11F3O4
